US07259183B2
Preparation of (4-tert-butyl-benzyl)-[2-(3-chloro-phenyl)-ethyl]-amine
0.38 ml of 4-tert-butylbenzaldehyde (2.25 mmol) and 0.215 ml 2-(3-chloro-phenyl)-ethylamine (1.5 mmol) were dissolved in 4.5 ml methanol at rt, and after stirring for 30 min at rt, were refluxed for 2.5 h. After cooling down to rt, 85 mg (2.25 mmol) sodium borohydride were added and after stirring for 5 min at rt, the reaction mixture was then refluxed for 4 h. After cooling down to rt, the reaction mixture was treated with 4 drops 1 N HCl and concentrated in vacuo. The residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel; EtOAc/heptane 1:2) to give 465 mg light yellow oil (100%). MS (ISP) 302.3 (M+H)+.

reactant | 4-tert-butylbenzaldehyde | 2.25 mmol, 0.38 ml | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | 2-(3-chloro-phenyl)-ethylamine | 1.5 mmol, 0.215 ml | ClC=1C=C(C=CC1)CCN | C8H10ClN
reactant | sodium borohydride | 2.25 mmol, 85 mg | [BH4-].[Na+]
solvent | methanol | 4.5 ml | CO | CH4O
catalyst | HCl | 1 N, 4 drops | Cl | ClH
product | (4-tert-butyl-benzyl)-[2-(3-chloro-phenyl)-ethyl]-amine | 100% | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=CC=C2)Cl)C=C1 | C19H24ClN
